US04782156
113.75 g (0.5 mole) of 2,4-dichloro-5-fluorobenzoyl chloride are added dropwise to a suspension of 73 g of anhydrous aluminum chloride and 200 ml of dry 1,2-dichloroethane at 0°-10° C., while cooling with ice and stirring. Acetylene is passed in at 40°-50° C. for 6.5 hours. The reaction mixture is poured onto ice, the organic phase is taken up in methylene chloride and the mixture is subsequently extracted with methylene chloride. After drying with sodium sulphate, the solvent is distilled off in vacuo. 121.7 g of 2-chlorovinyl 2,4-dichloro-5-fluoro-phenyl ketone are obtained as a crude product of melting point 65°-70° C. Distillation under a fine vacuum gives 99.8 g (78.7%) of pure product of boiling point: 124°-128° C./0.1 mbar and melting point 71°-73° C.

reactant | 2,4-dichloro-5-fluorobenzoyl chloride | 0.5 mole, 113.75 g | ClC1=C(C(=O)Cl)C=C(C(=C1)Cl)F | C7H2Cl3FO
reactant | aluminum chloride | 73 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
reactant | Acetylene | C#C | C2H2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chlorovinyl 2,4-dichloro-5-fluoro-phenyl ketone | 121.7 g | ClC1=C(C=C(C(=C1)Cl)F)C(=O)C=CCl | C9H4Cl3FO
